US07495007B2
In a manner similar to the method described in example 4d, racemic (2′R,3R,4′S)-6-chloro-2′-(4-chlorophenyl)-4′-(3-chlorophenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester (0.45 g, 0.83 mmol) was reacted with NaOH (60 mg, 1.49 mmol) in methanol to give racemic (2′R,3R,4′S)-6-chloro-2′-(4-chlorophenyl)-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as a white solid (Yield 0.2 g, 51%).

reactant | racemic (2′R,3R,4′S)-6-chloro-2′-(4-chlorophenyl)-4′-(3-chlorophenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester | 0.83 mmol, 0.45 g | C(C)OC(=O)N1C(C2(C(NC(CC2C2=CC(=CC=C2)Cl)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C12)Cl)=O | C27H21Cl3N2O4
reactant | NaOH | 1.49 mmol, 60 mg | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | racemic (2′R,3R,4′S)-6-chloro-2′-(4-chlorophenyl)-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield 0.2 g, 51% | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=CC=C(C=C1)Cl)=O | C24H17Cl3N2O2
